US06878728B1
2,2-difluoro-1,3-benzodioxole-5-sulfonyl Chloride
A solution of 2.37 g (10 mmol) 5-bromo-2,2-difluoro-1,3-benzodioxole in 25 ml anhydrous ether, cooled to −30° C., and 4 ml (10 mmol) n butyllithium (2.5 M in hexanes) was added at −30° C., over 10 minutes. The mixture was stirred at −30° C. for 1 hour, then sulfur dioxide gas was passed through the mixture at −20° C. for 5 minutes. The mixture then was allowed to warm up to 20° C., and the precipitate was filtered and washed with 20 ml hexane. The solid was suspended in 20 ml hexanes, 1.35 g (10 mmol) sulfuryl chloride was added, the mixture was stirred at 20° C. for 48 hours. The mixture then was filtered and the filtrate was concentrated under reduced pressure to obtain 1.6 g (62%) title compound. The product was used in the next step without further purification. 1H-NMR (CDCl3): δ 7.27 (1H,d), 7.74 (1H,s), 7.88 (1H,d).

reactant | 5-bromo-2,2-difluoro-1,3-benzodioxole | 10 mmol, 2.37 g | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
reactant | butyllithium | 2.5 M | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | sulfuryl chloride | 10 mmol, 1.35 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2,2-difluoro-1,3-benzodioxole-5-sulfonyl Chloride | 1.6 g, 62% | FC1(OC2=C(O1)C=CC(=C2)S(=O)(=O)Cl)F | C7H3ClF2O4S
